US06258811B1
2,5-Difluorophenol (10 g) was dissolved in dimethylformaldehyde (120 ml). At room temperature, potassium carbonate (21 g) and allyl bromide (8.57 ml) were successively added to the mixture and it was stirred at 80° C. for 1 hr. After adding water to the liquid reaction mixture, it was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (developing solvent: 5% ethyl acetate/n-hexane) to give 2,5-difluorophenol allyl ether (13 g) as a colorless oil.

reactant | 2,5-Difluorophenol | 10 g | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | potassium carbonate | 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 8.57 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | dimethylformaldehyde | 120 ml | CC(=O)C | C3H6O
product | 2,5-difluorophenol allyl ether | 13 g | C(C=C)OC1=C(C=CC(=C1)F)F | C9H8F2O
